US06908930B2
SYNTHESIS OF 5-(6-OXO-4-PIPERIDIN-1-YL-6,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-5-YLIDENEMETHYL)-1H-PYRROLE-2-CARBOXYLIC ACID (2-MORPHOLIN-4-YL-ETHYL)-AMIDE (FORMULA 5)
To a mixture of 4-chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (85 mg, 0.5 mmol) and 5-formyl-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide (125 mg, 0.5 mmol) in ethanol (4 mL) was added 0.2 mL of piperidine. The mixture was stirred at room temperature for 20 hours. The yellow precipitate was filtered after cooled with an ice bath, washed with cold ethanol and dried to give 114 mg (50.6%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 13.23 (br s, 1H, NH), 11.68 (br s, 1H, NH), 8.39 (m, 1H, CONHCH2), 8.32 (s, 1H, H-vinyl), 7.11 (s, 1H), 6.91-6.98 (m, 2H), 3.56 (m, 4H, 2×CH2), 3.38 (m, 6H, 3×CH), 2.39-2.47 (m, 6H, 3×CH2), 1.65 (m, 6H, 3×CH2). MS 452.2 [M++1].

reactant | 4-chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.5 mmol, 85 mg | ClC=1C2=C(N=CN1)NC(C2)=O | C6H4ClN3O
reactant | 5-formyl-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | 0.5 mmol, 125 mg | N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=O | C12H17N3O3
reactant | piperidine | 0.2 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-(6-OXO-4-PIPERIDIN-1-YL-6,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-5-YLIDENEMETHYL)-1H-PYRROLE-2-CARBOXYLIC ACID (2-MORPHOLIN-4-YL-ETHYL)-AMIDE | 114 mg, 50.6% | N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=C1C(NC=2N=CN=C(C21)N2CCCCC2)=O | C23H29N7O3
